US08536165B2
Methyl 2-amino-5-fluorobenzoate
A solution of 2-amino-5-fluorobenzoic acid (9.29 mmol, 1.440 g) in a mixture of HCl/MeOH (3N, 30 ml) was heated at 100° C. overnight. The solvent was evaporated and the crude mixture was extracted between DCM and K2CO3 saturated aqueous solution. The organic phase was evaporated and the crude mixture was purified by chromatography over SiO2 with hexane/ethyl acetate mixtures affording 0.650 g (yield 42%) of the expected product.

reactant | 2-amino-5-fluorobenzoic acid | 9.29 mmol, 1.440 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | HCl MeOH | 3N, 30 ml | Cl.CO
product | Methyl 2-amino-5-fluorobenzoate | 0.650 g, yield 42% | NC1=C(C(=O)OC)C=C(C=C1)F | C8H8FNO2
